US04170956
Preparation of Myristanilide
A three liter flask equipped with a stirrer, theremometer, nitrogen inlet, Barrett trap and condenser was used. Myristic acid (commercially available from Emery Chemicals, 97 percent purity, 685 grams, 3.0 moles), aniline (300 ml., 3.2 moles) and 120 ml xylene were charged to the flask. The mixture was stirred and heated for approximately 61/2 hours at a temperature of from about 170° C.-220° C. The reaction was conducted in a nitrogen atmosphere. The reaction mixture was then cooled to 140° C. and poured into a 4 liter beaker. About 1.8 liters of denatured alcohol were slowly added to the reaction solution. After standing overnight, the slurry of semi-solid myristanilide was collected by filtration. The filter cake was washed thoroughly with two portions of denatured alcohol and then air dried at about 22° C. The resultant white crystalline solid weighed 706 grams and had a melting point of 83.5° C.-84.5° C.

reactant | Myristic acid | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | aniline | 3.2 moles, 300 ml | NC1=CC=CC=C1 | C6H7N
solvent | xylene | 120 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Myristanilide | C(CCCCCCCCCCCCC)(=O)NC1=CC=CC=C1 | C20H33NO
